Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
oxycodone
 
Attending: ___
 
Chief Complaint:
sob/cp
 
Major Surgical or Invasive Procedure:
___ CT guided biopsy ___ with 5 core biopsy specimens 
obtained

 
History of Present Illness:
___ with hypothyroidism, HLD presenting as a transfer
from ___ with dyspnea and chest pain, found to have new
LUL mass c/f malignancy.

Per patient, she noticed chest and back pain on ___ night.
Subsequently developed SOB. Pain and SOB continued to worsen 
over
the next few days, and she finally went to the ED when she felt
like she couldn't breathe. Pain is worse with laying flat, 
better
sitting up. She notes pain on right chest radiating to front.
Workup in ___ found a LUL lung mass Patient was eval'd
by medicine consult, Dr. ___ in ___, I 
reviewed
note. Recommended TTE for eval of compression on heart from
mass, and transfer to ___.

She denies n/v/f/c/d, no recent weight loss, no numbness in
arms/fingers. Breathing currently feels relatively comfortable.
Has not been hypoxic.

___ CXR: multiple pulmonary nodules. No evidence of acute
congestive heart failure.

___ CTA: No PE; peripheral mass within the medial aspect 
the
left upper lobe which contacts the pleural surface -
heterogeneous in attenuation there is a low-attenuation
concerning for necrosis. This mass measures 5.6 x 3.4 x 6.4 cm.
There is localized mass effect on the adjacent pericardium with
pericardial/mediastinal invasion not excluded. There are no
enlarged lymph nodes identified. There are small but prominent
predominantly superior mediastinal lymph nodes identified.
Of note: Ativan at osh w/ good effect on pain/anxiety.
I reviewed ED notes, VS, labs, imaging, medication. I reviewed
old records. I will order labs and imaging as needed.
VSS but BP ___ received Tylenol, NS, Ativan.

No labs from ED yet.
OSH labs:
WBC 8.6
H/H 14.2/41.7
Plts 300
Chem panel, LFTs: wnl (Cr 0.9)
D-dimer: <0.29
Trop I: .01

Patient notes pain and SOB improved since admit. Denies fever, 
chills, night sweats, weight loss.  Denies cough. Denies 
dysphagia.
ROS as per HPI otherwise wnl full 10 point ROS performed.
 
Past Medical History:
Hyperlipidemia,
hypothyroidism
knee surgery 6 weeks ago for torn meniscus playing tennis
tonsillectomy when young
 
Social History:
___
Family History:
Twin sister with hypothyroidism
Brother has 3 children - 1 had neuroblastoma, one had 
anal/rectal
cancer, one had NHL
 
Physical Exam:
ADMISSION EXAM(8)
VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma.
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4. No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally. Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation. Bowel
sounds present. No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect

DISCHARGE EXAM:
VITALS: Afebrile 98.3 PO 95 / 64 Sitting 93 18 98 Ra 
GENERAL: Pleasant, alert and in no apparent distress
CV: Heart regular
RESP: Lungs clear to auscultation with good air movement 
bilaterally.  
GI: Abdomen soft, non-distended, non-tender 
NEURO: Alert, oriented, grossly intact without focal deficits
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
___ 07:10AM BLOOD WBC-6.0 RBC-4.53 Hgb-14.0 Hct-42.8 MCV-95 
MCH-30.9 MCHC-32.7 RDW-13.7 RDWSD-47.8* Plt ___
___ 07:10AM BLOOD Glucose-104* UreaN-9 Creat-0.8 Na-144 
K-4.4 Cl-105 HCO3-25 AnGap-14
___ 07:10AM BLOOD LD(LDH)-412*
___ 07:10AM BLOOD Calcium-9.9 Phos-2.8 Mg-2.1
 
Brief Hospital Course:
___ ___ with hypothyroidism presenting as a transfer 
from ___ with dyspnea and chest pain, found to have new 
LUL mass with concern for malignancy

#LUL lung/mediastinal mass, 5.6 x 3.4 x 6.4 cm, w/ associated
cough, chest discomfort without significant mass effect on heart
based on CTA, and no PE; patient states she had an echo at
___ but results not recorded in notes from ___
-CT guided biopsy ___ with 5 core samples, pathology pending
-Pain control w/ Tylenol, ibuprofen, morphine PRN
-f/u ___/ ___ to get TTE results
-Patient ordered for Quantiferon GOLD and had PPD skin test 
placed, but very very low
likelihood of TB.  Patient has had previous PPD skin tests that
have all been negative.  No symptoms to at least suggest active 
TB.
-discussed with PCP/Dr. ___ also agreed with no 
suspicion for TB.  Therefore, patient will not require to stay 
for test results.
-patient instructed to f/u with Dr. ___ tomorrow to 
have nursing read PPD skin test and f/u with Dr. ___ on 
___ to f/u with pathology results as well as Quantiferon 
GOLD.

#Hypothyroidism - continue levoxyl
#HLD - not on cholesterol medication

#Diet - regular
#DVT - SCD, avoid SQH after MN as may go for ___ procedure
#Dispo - s/p bx with appropriate f/u

GENERAL/SUPPORTIVE CARE:
# Nutrition/Hydration: Regular diet, NPO @ MN
# Functional status: full
# Bowel Function: senna Colace 
# Lines/Tubes/Drains:PIV
# Precautions:standard
# VTE prophylaxis:scd
# Consulting Services: ___ in AM
# Contacts/HCP/Surrogate and Communication: 
# Code Status/ACP: (please also see current POE order) d/w
patient, full
# Disposition: home

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 75 mcg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. Fish Oil (Omega 3) 1000 mg PO BID 
4. Vitamin D ___ UNIT PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q4H:PRN Pain - Mild  
2.  Docusate Sodium 100 mg PO BID  
3.  Aspirin 81 mg PO DAILY  
4.  Fish Oil (Omega 3) 1000 mg PO BID  
5.  Levothyroxine Sodium 75 mcg PO DAILY  
6.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
#LUL lung/mediastinal mass, 5.6 x 3.4 x 6.4 cm
#Hypothyroidism
#HLD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted for 5.6 x 3.4 x 6.4 cm LUL lung/mediastinal 
mass.  Biopsy was done and pathology is still pending.  Due to 
lung mass, there was concern for and need to rule out TB, 
therefore PPD skin test was placed and will need to be read in 
~48 hours (___) and Quantiferon GOLD was ordered with 
results pending.  A discussion with Dr. ___ was made and 
you will need to f/u with his office tomorrow to have nursing 
read the PPD skin test.  Then you will need to f/u with Dr. 
___ at 3pm ___.  Please call Dr. ___ 
office to confirm the follow up for ___.
 
Followup Instructions:
___